US08563596B2
The compound, (+)-trans-2-(2-Chloro-4-methylamino-phenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-chromen-4-one (0.13 g, 0.3 mmol) was suspended in methanol (2 mL) and treated with ethereal HCl and the organic solvent evaporated to obtain the salt, (+)-trans-2-(2-chloro-4-methylaminophenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-chromen-4-one hydrochloride.

reactant | (+)-trans-2-(2-Chloro-4-methylamino-phenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-chromen-4-one | 0.3 mmol, 0.13 g | ClC1=C(C=CC(=C1)NC)C=1OC2=C(C(=CC(=C2C(C1)=O)O)O)[C@H]1[C@@H](N(CC1)C)CO | C22H23ClN2O5
reactant | HCl | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | (+)-trans-2-(2-chloro-4-methylaminophenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methyl-pyrrolidin-3-yl)-chromen-4-one hydrochloride | Cl.ClC1=C(C=CC(=C1)NC)C=1OC2=C(C(=CC(=C2C(C1)=O)O)O)[C@H]1[C@@H](N(CC1)C)CO | InChI=1S/C22H23ClN2O5.ClH/c1-24-11-3-4-12(14(23)7-11)19-9-18(29)21-17(28)8-16(27)20(22(21)30-19)13-5-6-25(2)15(13)10-26;/h3-4,7-9,13,15,24,26-28H,5-6,10H2,1-2H3;1H/t13-,15+;/m1./s1
